US05073556
The whole of the ethyl 3-cyclopropylamino-2-(3-difluoromethoxy-2,4,5-trifluorobenzoyl)acrylate [(XIX), R1 =--OCHF2, R3' =H, R17 =C2H5, X=X'=F] [prepared as described in step (c) above] was dissolved in 150 ml of anhydrous diethyl ether, and then 0.39 g (0.0098 moles) of a 60% w/w suspension of sodium hydride in mineral oil was added in portions, whilst stirring at room temperature, to the resulting solution. After completion of the addition, the stirring was continued at room temperature for an additional 1 hour, and then the mixture was acidified by the addition of 1N aqueous hydrochloric acid with vigorous stirring. The reaction mixture was filtered and washed with water and with diethyl ether, in that order, to give 1.44 g of ethyl 1-cyclopropyl-8-difluoromethoxy-6,7-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylate as colorless needles, melting at 224°-226° C.

reactant | ethyl 3-cyclopropylamino-2-(3-difluoromethoxy-2,4,5-trifluorobenzoyl)acrylate | C1(CC1)NC=C(C(=O)OCC)C(C1=C(C(=C(C(=C1)F)F)OC(F)F)F)=O | C16H14F5NO4
reactant | sodium hydride | [H-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | diethyl ether | 150 ml | C(C)OCC | C4H10O
product | ethyl 1-cyclopropyl-8-difluoromethoxy-6,7-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylate | 1.44 g | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)OC(F)F)F)F)=O)C(=O)OCC | C16H13F4NO4
